US09326973B2
To a solution of 5-(benzyloxy)tetrahydro-2H-pyran-2-yl acetate (281 mg, 1.123 mmol) and ((1-methoxy-2-methylprop-1-en-1-yl)oxy)trimethylsilane (783 mg, 4.49 mmol) in DCM (5 mL) at −78° C. was added BF3.OEt2 (0.228 mL, 1.796 mmol). The reaction mixture was gradually allowed to warm to rt and stirred at rt for 18 h. The reaction mixture was quenched with sat. NaHCO3 (5 mL) and diluted with DCM (20 mL). The organic layer was separated, washed with water, brine, dried (MgSO4) and concentrated. The crude product was purified by silica gel FCC (10-20% EtOAc in hexanes) to afford methyl 2-(5-(benzyloxy)tetrahydro-2H-pyran-2-yl)-2-methylpropanoate as a colorless oil (253 mg). To a solution of methyl 2-(5-(benzyloxy)tetrahydro-2H-pyran-2-yl)-2-methylpropanoate (250 mg) in MeOH (20 mL) was added 10% Pd—C (59.7 mg) and the reaction mixture was hydrogenated at 40 psi overnight. The suspension was filtered and the filtrate was evaporated to dryness to afford methyl 2-(5-hydroxytetrahydro-2H-pyran-2-yl)-2-methylpropanoate as a clear oil (188 mg).

reactant | 5-(benzyloxy)tetrahydro-2H-pyran-2-yl acetate | 1.123 mmol, 281 mg | C(C)(=O)OC1OCC(CC1)OCC1=CC=CC=C1 | C14H18O4
reactant | ((1-methoxy-2-methylprop-1-en-1-yl)oxy)trimethylsilane | 4.49 mmol, 783 mg | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
reactant | BF3.OEt2 | 1.796 mmol, 0.228 mL | B(F)(F)F.CCOCC
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(5-(benzyloxy)tetrahydro-2H-pyran-2-yl)-2-methylpropanoate | 253 mg | C(C1=CC=CC=C1)OC1CCC(OC1)C(C(=O)OC)(C)C | C17H24O4
